US05817698
4-[1-(4-Fluorophenyl)-1-methylethyl]phenol
To a solution of 4-[1-(4-fluorophenyl)-1-methylethyl]phenyl methyl ether (3.34 g, 13.67 mmol) in chloroform (40 ml) was added trimethylsilyl iodide (4.10 g, 20.51 mmol). The solution was stirred under argon at 40° C. for 18 h, then cooled and poured into ice cold water (50 ml). The aqueous phase was extracted with chloroform (6×20 ml), and the combined organic layers were washed with sodium metabisulfite then brine, and dried over sodium sulfate. After concentration in vacuo the residue was subjected to column chromatography on silica gel eluting with 10-40% diethyl ether in 40-60 petroleum ether to afford the title compound as an oil (2.4 g).

reactant | 4-[1-(4-fluorophenyl)-1-methylethyl]phenyl methyl ether | 13.67 mmol, 3.34 g | COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)F | C16H17FO
reactant | trimethylsilyl iodide | 20.51 mmol, 4.10 g | C[Si](C)(C)I | C3H9ISi
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[1-(4-Fluorophenyl)-1-methylethyl]phenol | 2.4 g | FC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H15FO
